US07576215B2
3-ALLYL-5-{4-[({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]BENZYLIDENE}-2-THIOXO-1,3-THIAZOLIDIN-4-ONE
The title compound was prepared from [4-(3-amino-phenyl)-8-trifluoromethyl-quinolin-3-yl]-phenyl-methanone and 4-(3-allyl-4-oxo-2-thioxo-thiazolidin-5-ylidenemethyl)-benzaldehyde according to the procedure of Example 66. MS (ES) m/z 663.8.

reactant | [4-(3-amino-phenyl)-8-trifluoromethyl-quinolin-3-yl]-phenyl-methanone | NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H15F3N2O
reactant | 4-(3-allyl-4-oxo-2-thioxo-thiazolidin-5-ylidenemethyl)-benzaldehyde | C(C=C)N1C(SC(C1=O)=CC1=CC=C(C=O)C=C1)=S | C14H11NO2S2
product | 3-ALLYL-5-{4-[({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]BENZYLIDENE}-2-THIOXO-1,3-THIAZOLIDIN-4-ONE | C(C=C)N1C(SC(C1=O)=CC1=CC=C(C=C1)CNC1=CC(=CC=C1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(C1=CC=CC=C1)=O)=S | C37H26F3N3O2S2
